US07342118B2
2-[(6,8-Difluoro-1,2,3,4-tetrahydro-naphthalen-2-yl)-methyl-amino]-pentanoic acid [1-(1,1-dimethyl-2-pyrrolidin-1-yl-ethyl)-1H-imidazol-4-yl]-amide
2-(6,8-Difluoro-1,2,3,4-tetrahydro-naphthalen-2-ylamino)-pentanoic acid [1-(1,1-dimethyl-2-pyrrolidin-1-yl-ethyl)-1H-imidazol-4-yl]-amide (1 equiv) is dissolved in methanol and to the reaction is added formalin (4 equiv) and sodium cyanoborohydride (2.0 equiv). The reaction is stirred at rt for 3 h, quenched with water, and extracted with methylene chloride. The solvent is dried, concentrated and the residue purified by silica gel chromatography to provide the title compound: Diagnostic C13 NMR (100 MHz, CDCl3) 55.9, 57.0, 57.1, 56.0, 65.1, 67.2, 101.0, 104.5, 110.5, 110.7, 131.1; MS m/z 488.4 (M+1).

reactant | 2-(6,8-Difluoro-1,2,3,4-tetrahydro-naphthalen-2-ylamino)-pentanoic acid [1-(1,1-dimethyl-2-pyrrolidin-1-yl-ethyl)-1H-imidazol-4-yl]-amide | 1 equiv | CC(CN1CCCC1)(C)N1C=NC(=C1)NC(C(CCC)NC1CC2=C(C=C(C=C2CC1)F)F)=O | C26H37F2N5O
reactant | formalin | 4 equiv | C=O | CH2O
reactant | sodium cyanoborohydride | 2.0 equiv | C(#N)[BH3-].[Na+]
solvent | methanol | CO | CH4O
product | 2-[(6,8-Difluoro-1,2,3,4-tetrahydro-naphthalen-2-yl)-methyl-amino]-pentanoic acid [1-(1,1-dimethyl-2-pyrrolidin-1-yl-ethyl)-1H-imidazol-4-yl]-amide | CC(CN1CCCC1)(C)N1C=NC(=C1)NC(C(CCC)N(C)C1CC2=C(C=C(C=C2CC1)F)F)=O | C27H39F2N5O
